US07220880B2
2-Methyl-3-(4-{[2-(4-phenoxy-phenyl)-ethylcarbamoyl]-methoxy}-phenyl)-2-(4-trifluoromethoxy-phenoxy)-propionic acid
The title compound was prepared using same method for 2-Methyl-2-phenoxy-3-(4-{[2-(4-phenoxy-phenyl)-ethylcarbamoyl]-methoxy}-phenyl)-propionic acid from 3-(4-Hydroxy-phenyl)-2-methyl-2-(4-trifluoromethoxy-phenoxy)-propionic acid ethyl ester.

reactant | 2-Methyl-2-phenoxy-3-(4-{[2-(4-phenoxy-phenyl)-ethylcarbamoyl]-methoxy}-phenyl)-propionic acid | CC(C(=O)O)(CC1=CC=C(C=C1)OCC(NCCC1=CC=C(C=C1)OC1=CC=CC=C1)=O)OC1=CC=CC=C1 | C32H31NO6
reactant | 3-(4-Hydroxy-phenyl)-2-methyl-2-(4-trifluoromethoxy-phenoxy)-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(OC1=CC=C(C=C1)OC(F)(F)F)C)=O | C19H19F3O5
product | 2-Methyl-3-(4-{[2-(4-phenoxy-phenyl)-ethylcarbamoyl]-methoxy}-phenyl)-2-(4-trifluoromethoxy-phenoxy)-propionic acid | CC(C(=O)O)(CC1=CC=C(C=C1)OCC(NCCC1=CC=C(C=C1)OC1=CC=CC=C1)=O)OC1=CC=C(C=C1)OC(F)(F)F | C33H30F3NO7
